US06514968B1
Preparation 27 N-(2-{[6-Chloro-9-(4-fluorobenzyl)-9H-carbazol-4-yl]oxy}ethyl)-N,N-diethylamine
6-Chloro-9-(4-fluorobenzyl)-9H-carbazol-4-ol (0.0619 g, 0.19 mmol), 2-diethylaminoethylchloride hydrochloride (0.0494 g, 0.29 mmol), potassium carbonate (0.0750 g, 0.54 mmol), sodium iodide (0.0021 g, 0.014 mmol) and DMF (1 mL) are heated at 85° C. for 4 h. After the mixture had cooled, it is partitioned between water and ether. The aqueous layer is also extracted with ethyl acetate several times. The combined organic layers are dried over magnesium sulfate and concentrated to an oil. The oil is chromatographed on silica gel (75 mL) using methanol/dichloromethane (1/99 to 2/98 to 4/96) to give 0.0591 g (73%) of the title compound; mp 99-99.5° C.; MS (ESI+) for C25H26ClFN2O m/z 425.2 (M+H)+; IR (drift) 2972, 1588, 1507, 1467, 1454, 1342, 1270, 1221, 1151, 1123, 817, 799, 778, 740, 714 cm−1; 1H NMR (CDCl3) δ1.15, 2.75, 3.12, 4.33, 5.44, 6.71, 6.93, 7.04, 7.20, 7.34, 8.33. Anal. Calcd for C25H26ClFN2O: C, 70.66; H, 6.17; N, 6.59. Found: C, 70.23; H, 6.05; N, 6.61.

reactant | 6-Chloro-9-(4-fluorobenzyl)-9H-carbazol-4-ol | 0.19 mmol, 0.0619 g | ClC=1C=C2C=3C(=CC=CC3N(C2=CC1)CC1=CC=C(C=C1)F)O | C19H13ClFNO
reactant | 2-diethylaminoethylchloride hydrochloride | 0.29 mmol, 0.0494 g | Cl.C(C)N(CCCl)CC
reactant | potassium carbonate | 0.54 mmol, 0.0750 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.014 mmol, 0.0021 g | [I-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(2-{[6-Chloro-9-(4-fluorobenzyl)-9H-carbazol-4-yl]oxy}ethyl)-N,N-diethylamine | 0.0591 g, 73% | ClC=1C=C2C=3C(=CC=CC3N(C2=CC1)CC1=CC=C(C=C1)F)OCCN(CC)CC | C25H26ClFN2O
